US07067540B2
1-benzyl-3-bromo-2-oxo-1,2-dihydropyridin-4-yl methyl(phenyl)carbamate
To a solution of 1-benzyl-2-oxo-1,2-dihydropyridin-4-yl methyl(phenyl)carbamate (0.38 g, 1.13 mmol) in anhydrous CH2Cl2 (7 mL) was added N-Bromosuccinimide (NBS, 0.24 g, 1.34 mmol). The reaction was stirred overnight at room temperature under nitrogen atmosphere. The reaction mixture was purified by flash chromatography (silica gel) using EtOAc/hexanes (1:1 v/v). The appropriate fractions were collected according to ES MS (M+H 413) and concentrated. The dried product showed about 14% of di-brominated product by analytical HPLC. The compounds were separated by reverse phase HPLC using a 10-90% acetonitrile in water, 30 min gradient at a 100 mL/min flow rate, to afford (after lyophilization) the salt of the desired compound. The salt was diluted in EtOAc and washed with NaHCO3. The organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated to afford the desired compound (0.271 g, 58%) as a beige solid.

reactant | 1-benzyl-2-oxo-1,2-dihydropyridin-4-yl methyl(phenyl)carbamate | 1.13 mmol, 0.38 g | CN(C(OC1=CC(N(C=C1)CC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C20H18N2O3
reactant | N-Bromosuccinimide | 1.34 mmol, 0.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-3-bromo-2-oxo-1,2-dihydropyridin-4-yl methyl(phenyl)carbamate | CN(C(OC1=C(C(N(C=C1)CC1=CC=CC=C1)=O)Br)=O)C1=CC=CC=C1 | C20H17BrN2O3
